US09233985B2
A solution of (2R,3S)-3-acetamido-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)tetrahydrofuran-3-carboxamide (860 mg) in 6 N HCl (15 mL) was stirred at 90° C. for 1 day. After cooling to room temperature, the reaction mixture was transferred to a reparatory funnel, diluted with deionized water (10 mL) and washed with dichloromethane (3×). The aqueous solution was concentrated. Purification by RP-HPLC (10-100% acetonitrile in water) gave (2R,3S)-3-amino-2-(3-boronopropyl)tetrahydrofuran-3-carboxylic acid, as a white solid (269 mg). 1H NMR (D2O, 300 MHz) δ 3.97 (m, 2 H), 3.82 (m, 1 H), 2.66 (ddd, J1=15 Hz, J2=9.5 Hz, J3=5.5 Hz, 1 H), 2.14 (ddd, J1=15 Hz, J2=9 Hz, J3=6.5 Hz, 1 H), 1.22-1.49 (m, 4 H), 0.67 (m, 2 H); MS (+CI): m/z for C8H16BlNO5: expected 217.1; found 435.3 (2M+H)+, 417.2 (2M+H−H2O)+, 217.7 (M+H)+, 200.0 (M+H−2H2O)+.

reactant | (2R,3S)-3-acetamido-N-tert-butyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl)tetrahydrofuran-3-carboxamide | 860 mg | C(C)(=O)N[C@@]1([C@H](OCC1)CCCB1OC(C(O1)(C)C)(C)C)C(=O)NC(C)(C)C | C20H37BN2O5
reactant | water | 10 mL | O | H2O
solvent | HCl | 6 N, 15 mL | Cl | ClH
product | (2R,3S)-3-amino-2-(3-boronopropyl)tetrahydrofuran-3-carboxylic acid | N[C@@]1([C@H](OCC1)CCCB(O)O)C(=O)O | C8H16BNO5
